US04145432
A mixture of diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (388.37 mg), ethylene glycol (186.21mg) and p-toluenesulfonic acid (catalytic amount) in absolute benzene (5 ml) was refluxed for 45 minutes under azeotropic dehydration. The reaction mixture was allowed to stand and washed twice with an aqueous solution of sodium bicarbonate. After removal of the solvent, the residue immediately turned into crystals. Thus obtained crystals were recrystallized from a mixture of ethanol and diisopropyl ether to give yellow pure crystals (0.32 g) of diethyl 2-methyl-4-(2-nitrophenyl)-6-ethylenedioxymethyl-1,4-dihydropyridine-3,5-dicarboxylate, m.p. 152 to 153.5° C. (7) A mixture of diethyl 2-methyl-4-(2-nitrophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (1.9518 g) and triphenylphosphine (1.4425 g) in carbon tetrachloride (20 ml) was refluxed for 5 hours. After removal of the solvent, the residue was added to water and extracted with ethyl acetate. The extract was washed with water and dried. Removal of the solvent gave an orange-yellow oil (3.63 g). This oil was subjected to column chromatography on silica gel with an eluent (benzene : ethyl acetate = 5 : 2) to give an oil (517 mg) of diethyl 2-methyl-4-(2-nitrophenyl)-6-chloromethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 388.37 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
reactant | ethylene glycol | 186.21mg | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-ethylenedioxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.32 g | CC=1N2C(=C(C(C1C(=O)OCC)(C1=C(C=CC=C1)[N+](=O)[O-])C)C(=O)OCC)OCCO2 | C21H24N2O8
